US07135480B2
3-Cyano-1-(pyridine-2-carbonyl)-pyrrolo[1,2-a]quinoline
A stirred solution of 2-acetylpyridine (450 μL, 4.02 mmol), quinoline (5.0 mL, 42 mmol) and iodine (1.02 g, 4.01 mmol) was refluxed at 105° C. for 2 h under argon. The solution was cooled to room temperature and was concentrated by rotary evaporation in a water bath at 75° C. The residue was dissolved in ethanol (4 mL) and precipitated out by the addition of ethyl acetate (20 mL). The precipitate was filtered and dried in vacuo to yield 384 mg of a brownish-green solid as mixture of the product quinolinium salt and quinoline starting material. The solid (353 mg) was mixed with tetrapyridinecobalt(II) dichromate (591 mg, 0.970 mmol), sodium bicarbonate (199 mg, 2.37 mmol), acrylonitrile (310 μL, 4.71 mmol), and N,N-dimethylformamide (3.0 mL) and was refluxed at 93° C. for 2.5 h. The solution was cooled to room temperature and was concentrated by rotary evaporation. The product was purified by flash column chromatography (7:2 hexanes/ethyl acetate) and was recrystallized from ethyl acetate and dichloromethane to yield 31.6 mg (3% over 2 steps) of the title compound as a yellow solid. 1H NMR (CDCl3): 8.80 (dd, J=4.94, 0.82 Hz, 1H), 8.23 (d, J=7.96 Hz, 1H), 8.12 (d, J=8.24 Hz, 1H), 7.98 (td, J=7.76, 1.56 Hz, 1H), 7.85 (m, 2H), 7.76 (d, J=9.06 Hz, 1H), 7.68 (d, J=9.07 Hz, 1H), 7.52–7.65 (m, 3H).

reactant | quinolinium | [NH+]1=CC=CC2=CC=CC=C12
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | dichromate | 0.970 mmol, 591 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | sodium bicarbonate | 2.37 mmol, 199 mg | C([O-])(O)=O.[Na+]
reactant | acrylonitrile | 4.71 mmol, 310 μL | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | 3-Cyano-1-(pyridine-2-carbonyl)-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(=O)C2=NC=CC=C2 | C19H11N3O
